US07678798B2
tert-Butyl 4-Methyl-4-{(3S)-3-methyl-4-[6-(trifluoromethyl)-2,3-dihydro-1H-inden-1-yl]piperazin-1-yl}piperidine-1-carboxylate
To a solution of tert-butyl 4-cyano-4-{(3S)-3-methyl-4-[6-(trifluoromethyl)-2,3-dihydro-1H-inden-1-yl]piperazin-1-yl}piperidine-1-carboxylate (0.72 g, 1.3 mmol) in THF (20 mL) was added a 3 M solution of methylmagnesium bromide in ether (4.0 mL). After being stirred at room temperature overnight, the reaction was quenched by addition of water. The resulting solution was extracted with EtOAc twice. The combined EtOAc layers were dried and concentrated. Column chromatography on silica (20-30% EtOAc in hexane) provided the title compound (0.32 g, 50%) as a viscous oil. MS calculated for C26H38F3N3O2: (M+H)+ 482; found 482.3.

reactant | tert-butyl 4-cyano-4-{(3S)-3-methyl-4-[6-(trifluoromethyl)-2,3-dihydro-1H-inden-1-yl]piperazin-1-yl}piperidine-1-carboxylate | 1.3 mmol, 0.72 g | C(#N)C1(CCN(CC1)C(=O)OC(C)(C)C)N1C[C@@H](N(CC1)C1CCC2=CC=C(C=C12)C(F)(F)F)C | C26H35F3N4O2
reactant | methylmagnesium bromide | C[Mg]Br
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ether | 4.0 mL | CCOCC | C4H10O
product | tert-Butyl 4-Methyl-4-{(3S)-3-methyl-4-[6-(trifluoromethyl)-2,3-dihydro-1H-inden-1-yl]piperazin-1-yl}piperidine-1-carboxylate | 0.32 g, 50% | CC1(CCN(CC1)C(=O)OC(C)(C)C)N1C[C@@H](N(CC1)C1CCC2=CC=C(C=C12)C(F)(F)F)C | C26H38F3N3O2
